US04689349
Magnesium metal turnings (7.2 g, 0.299 moles) are added to a three-necked, round-bottomed flask equipped with a Friedrich condenser and kept under nitrogen gas. Tetrahydrofuran (300 ml) is transferred to the flask and the contents stirred. A clear, colorless solution of 1-chloro-5-methoxyheptane (48.1 g, 0.292 moles) is added portionwise and refluxed. The final third portion is added and the mixture stirred for 3 hours. The dark yellow solution is cooled to -25° C., the condenser is removed and replaced with a dry ice addition funnel. A clear solution of 3-chlorocyclopentene (29.9 g, 0.292 moles) is added over one hour. The solution is poured into a saturated ammonium chloride solution and stirred for one hour. The organic phase is separated and the aqueous phase is extracted with ether. The combined organic solutions are dried over anhydrous sodium sulfate. The solvent is removed under vacuum and the crude product is then purified by fractional distillation, yielding 3-(5-methoxyhept-1-yl)cyclopentene {3-(5-methoxyheptyl)cyclopentene} as a clear, colorless oil.

reactant | Magnesium | [Mg] | Mg
reactant | 1-chloro-5-methoxyheptane | 0.292 moles, 48.1 g | ClCCCCC(CC)OC | C8H17ClO
reactant | 3-chlorocyclopentene | 0.292 moles, 29.9 g | ClC1C=CCC1 | C5H7Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | Tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 3-(5-methoxyhept-1-yl)cyclopentene | COC(CCCCC1C=CCC1)CC | C13H24O
